US04806141
Ethoxyamine hydrochloride (0.43 g) and then aqueous sodium hydroxide (0.18 g in 10.0 ml of water) were added to a solution of 3-hydroxy-5-(3-methoxy-2,4,6-trimethylphenyl)-2-propionylcyclohex-2-en-1-one (1.35 g) in anhydrous absolute ethanol (200 ml). The mixture was stirred at room temperature for a period of 4 hours and then the ethanol was removed by evaporation under reduced pressure. The residue was treated with dichloromethane and the organic phase was washed twice with dilute aqueous hydrochloric acid and twice with water. The organic phase was dried over anhydrous sodium sulfate and the solvent was removed by evaporation under reduced pressure to give 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(3-methoxy-2,4,6-trimethylphenyl)cyclohex-2-en-1-one (1.40 g), as a pale yellow oil which slowly solidified on standing. Proton magnetic resonance spectrum (CDCl3 ; δ in ppm): 1.20 (3H, t); 1.32 (3H, t); 2.23 (3H, s); 2.34 (6H, s); 2.35-4.00 (7H, m); 3.65 (3H, s); 4.12 (2H, q); 6.83 (1H, s); 14.95 (1H, s).

reactant | Ethoxyamine hydrochloride | 0.43 g | Cl.C(C)ON
reactant | sodium hydroxide | 10.0 ml, 0.18 g | [OH-].[Na+]
reactant | 3-hydroxy-5-(3-methoxy-2,4,6-trimethylphenyl)-2-propionylcyclohex-2-en-1-one | 1.35 g | OC1=C(C(CC(C1)C1=C(C(=C(C=C1C)C)OC)C)=O)C(CC)=O | C19H24O4
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(3-methoxy-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 1.40 g | C(C)ON=C(CC)C=1C(CC(CC1O)C1=C(C(=C(C=C1C)C)OC)C)=O | C21H29NO4
